US07745438B2
5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(2-(S)-hydroxy-5-methylhexyl)-carbamic acid tert-butyl ester (253 mg, 347 mmol) in benzene (3 mL). Deoxygenate the reaction mixture. Add tributyl phosphine (130 μL, 520 mmol), N,N-tetramethyl azodicarboxamide (TMAD) (89.5 mg, 520 mmol) and stir at room temperature 2.5 hours. Add deoxygenated tetrahydrofuran (5 mL), more tributyl phosphate (130 μL), more TMAD (90 mg) and stir 1.5 hours. Filter, rinse with hexanes, concentrate and purify (silica gel chromatography, eluting with 5:95 ethyl acetate:hexanes) to give the desired compound (191.7 mg, 77%).

reactant | [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(2-(S)-hydroxy-5-methylhexyl)-carbamic acid tert-butyl ester | 347 mmol, 253 mg | C(C)(C)(C)OC(N(C[C@H](CCC(C)C)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C44H56F2N2O5
reactant | tributyl phosphine | 520 mmol, 130 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
product | 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester | 191.7 mg, 77% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CCC(C)C | C44H54F2N2O4
